* A:\FIUBA\Circuitos II\Checkpoint_1\Circuito_foldback_final\Circuito_foldback_final.asc
VREG N001 0 9.5
Q1 N005 VREF N011 0 BC547C
Q2 Vb N010 N011 0 BC547C
Rf1 N010 0 10k
Rf2 Vo N010 10k
VREF VREF 0 2.5
Q3 N011 N012 0 0 BC547C
Q4 N012 N012 0 0 BC547C
Rref VREF N012 1k2
Q5 N005 N005 N003 0 BC557C
Q6 Vb N005 N004 0 BC557C
Q7 VRS N006 N001 0 TIP42C
Q8 N006 Vb VRS 0 BC337-40
R4 VRS Vo 0.1
Rl Vo 0 {Rl}
RVO+ N002 Vo 454k
RVREF+ N002 VREF 625k
RVRS+ N002 Vo 10k
RF N007 N002 470k
RVRS- N009 VRS 10k
RVREF- N009 0 625k
RVO- N009 0 454k
R9 N009 N013 470k
Q9 N013 N013 0 0 BC547C
R10 N013 VREG 100k
R11 N008 N007 1k
Q10 Vb N008 0 0 BC547C
XU1 N009 N002 VREG 0 N007 LM358
R1 N001 N003 100
R2 N001 N004 100
.model NPN NPN
.model PNP PNP
.lib C:\Users\User\AppData\Local\LTspice\lib\cmp\standard.bjt
.include TIP42C.lib
.op
.step param Rl 0.1 50 0.1
.include LM358.lib
;ac dec 200 0.1 1e9
;dc VREG 0 24 0.1
.backanno
.end
